US09315490B2
(1-(5-(2-Fluoro-5-methylphenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(pyrrolidin-1-yl)methanone
The synthesis example was prepared from methyl 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate in four chemical steps comprising a Suzuki reaction with (2-fluoro-5-methylphenyl)boronic acid, an oxidation with m-chloroperoxybenzoic acid, a hydrolysis of the methyl ester under use of lithium hydroxide and finally an amidation with HATU as coupling reagent and pyrrolidine as amine. White solid. Yield: 0.08 g

reactant | methyl 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)OC)SC | C15H12BrN3O2S
reactant | (2-fluoro-5-methylphenyl)boronic acid | FC1=C(C=C(C=C1)C)B(O)O | C7H8BFO2
reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | lithium hydroxide | [OH-].[Li+]
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (1-(5-(2-Fluoro-5-methylphenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)(pyrrolidin-1-yl)methanone | FC1=C(C=C(C=C1)C)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCCC1)S(=O)C | C25H23FN4O2S
